US04100152
(a) Synthesis of 3-oxo-5-carboxyperhydro-1,4-thiazine
In 40 ml. of water is suspended 3.6 g (0.02 M) of S-carboxymethyl-L-cysteine, followed by addition of 20 ml. of 1N-NaOH. The reaction is conducted in a sealed tubular reactor at 110° C for 48 hours. The reaction mixture is passed through a column (4.5 × 12.0 cm) of Amberlite IR-120 B (H+ -form), whereby it is desalted. The effluent is concentrated to dryness and the residue is dissolved in glacial acetic acid. Following addition of ether, the resultant crystals are recovered by filtration. Yield 1.55 g. (48.1%); melting point: 152.0°-153.0° C; optical rotation [α]D25 + 1.1° (c=0.64, in water).

reactant | S-carboxymethyl-L-cysteine | 0.02 M, 3.6 g | C(=O)(O)CSC[C@H](N)C(=O)O | C5H9NO4S
reactant | NaOH | [OH-].[Na+]
solvent | water | O | H2O
product | 3-oxo-5-carboxyperhydro-1,4-thiazine | O=C1CSCC(N1)C(=O)O | C5H7NO3S
